US07763761B2
7.4 g of 4-(naphthalene-1-yl)phenyl boronic acid prepared by a well known method and 7.0 g of conventional 1-bromopyrene were dissolved in 80 ml of dimethoxyethane (DME). Subsequently, 0.58 g of tetrakistriphenylphosphine palladium and 40 ml of 2M-sodium carbonate aqueous solution were added therein, followed by argon displacement. After heating and refluxing over 8 hours, it was stood to cool and then an organic layer was extracted therefrom by toluene. The organic layer was washed by saturated salt water, followed by drying through anhydrous sodium sulfate, and then the organic solvent was removed by an evaporator. The residue was refined through a silica gel chromatography (a developing solvent: toluene) and then 10.0 g of 1-(4-naphthalene-1-yl-phenyl) pyrene was obtained. (yield: 99%)

reactant | 4-(naphthalene-1-yl)phenyl boronic acid | 7.4 g | C1(=CC=CC2=CC=CC=C12)C1=CC=C(C=C1)B(O)O | C16H13BO2
reactant | 1-bromopyrene | 7.0 g | BrC1=CC=C2C=CC3=CC=CC4=CC=C1C2=C34 | C16H9Br
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethoxyethane | 80 ml | C(OC)COC | C4H10O2
product | 1-(4-naphthalene-1-yl-phenyl) pyrene | 10.0 g, yield: 99% | C1(=CC=CC2=CC=CC=C12)C1=CC=C(C=C1)C1=CC=C2C=CC3=CC=CC4=CC=C1C2=C34 | C32H20
